US06809199B2
Step B: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(piperidin-4-ylamino)-1,6-naphthyridin-2(1H)-one
The title compound was prepared from tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]amino}piperidine-1-carboxylate by a procedure analogous to that described in EXAMPLE HHH2, Step C. Mass spectrum (ESI) 501 (M+1). Step C: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(1-isopropylpiperidin-4-yl)amino]-1,6-naphthyridin-2(1H)-one

reactant | tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]amino}piperidine-1-carboxylate | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1Cl)Cl)=O | C30H29Cl3N4O3
reactant | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(1-isopropylpiperidin-4-yl)amino]-1,6-naphthyridin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)NC1CCN(CC1)C(C)C)C1=C(C=CC=C1Cl)Cl)=O | C28H27Cl3N4O
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-(piperidin-4-ylamino)-1,6-naphthyridin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC(=N1)NC1CCNCC1)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N4O
